US07977332B2
Step B—Synthesis of (tert-butoxy)-N-(2-{[(2-chloro(1,3-thiazol-5-yl))methyl][(4-methoxyphenyl)methyl]amino}ethyl)carboxamide as an intermediate
This compound was also made in a manner analogous to that set forth in Step D of Example 5, and Step A above, using 0.25 gram (0.0017 mole) of (2-chloro-1,3-thiazol-5-yl)formaldehyde, 0.47 gram (0.0017 mole) of (tert-butoxy)-N-(2-{[(4-methoxyphenyl)methyl]amino}ethyl)carboxamide, 0.54 gram (0.0025 mole) of sodium triacetoxyborohydride and 0.40 gram (0.0034 mole) of magnesium sulfate in about 10 mL of 1,2-dichloroethane. The reaction product was purified with column chromatography on silica gel. In a first chromatography, elution was accomplished using mixtures of 2% to 5% methanol in methylene chloride as eluants. In a second chromatography, elution was accomplished using a mixture of 1.5% methanol in methylene chloride as an eluant. Appropriate fractions were combined and concentrated under reduced pressure, yielding 0.48 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | (2-chloro-1,3-thiazol-5-yl)formaldehyde | 0.0017 mole, 0.25 gram | ClC=1SC(=CN1)C=O | C4H2ClNOS
reactant | (tert-butoxy)-N-(2-{[(4-methoxyphenyl)methyl]amino}ethyl)carboxamide | 0.0017 mole, 0.47 gram | C(C)(C)(C)OC(=O)NCCNCC1=CC=C(C=C1)OC | C15H24N2O3
reactant | sodium triacetoxyborohydride | 0.0025 mole, 0.54 gram | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | magnesium sulfate | 0.0034 mole, 0.40 gram | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | 1,2-dichloroethane | about 10 mL | ClCCCl | C2H4Cl2
product | (tert-butoxy)-N-(2-{[(2-chloro(1,3-thiazol-5-yl))methyl][(4-methoxyphenyl)methyl]amino}ethyl)carboxamide | 0.48 gram | C(C)(C)(C)OC(=O)NCCN(CC1=CC=C(C=C1)OC)CC1=CN=C(S1)Cl | C19H26ClN3O3S
